Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
confusion, clumsiness, dizziness, headache
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year old right-handed gentleman with several 
symptoms including clumsiness, dizziness, headache, and 
confusion. His symptoms began at least one and a half weeks ago 
and worsened during the three to four days prior to admission. 

The first symptom that Mr. ___ noticed was his dizziness, 
described as lightheadedness and later as imbalance. He has a 
long history of being predisposed to motion sickness, but this 
seemed to worsen during this period. Over the course of the 
preceding few months since the ___, he was transitioning from 
Venlafaxine to Fluoxetine due to worsening frequency of 
dizziness that was thought to be associated with the former 
medication as well as a rapid heart rate and sweating. Earlier 
this week, he felt that he was off balance when walking on 
stairs though he did not suffer any falls. He did not notice 
leaning more toward one side or the other.

At the beginning of the one and a half weeks, Mr. ___ had 
headaches that were worse in frequency and severity than his 
usual headaches. He has a history of chronic headaches which are 
described as a sometimes severe, throbbing, pressure sensation 
behind both eyes, sometimes favoring the right and often 
associated with light sensitivity, sound sensitivity, nausea, 
and dizziness. There was no radiation of the pain to the neck or 
elsewhere. These headaches are triggered by some smells 
including car exhaust and not eating on a regular schedule. 
These improve in dark conditions and with rest. There have been 
no associated auras, vision changes, numbness, tingling, or 
weakness. These usually happen ___ times per week but were now 
occurring daily and required sleep to have any improvement.

At this time, our patient’s husband also gradually became aware 
that he was not acting like himself. At baseline, Mr. ___ is a 
very high functioning ___ and ___ 
___ without any toxic habits. However, over the course of 
several days, his behavior seemed to change: for example, he 
left the sink running a few times. In the few days before 
admission, he drove off in his car without fully closing the 
door, and his care was later found to have scratches on the left 
side which he could not explain. He had some awareness of what 
he perceived as decreased judgment. He also accidentally 
exchanged an antihistamine for one of his prescription 
medications the day before admission. 

The patient and his husband also noticed that he seemed to 
become more clumsy which is atypical for him. Although he had no 
trouble with his cello playing and teaching during this time, he 
has been dropping objects frequently from his hands. He 
clarified this as trouble holding objects in his hand. His 
messenger bag that he would hold on his right shoulder would 
slip off. He also seemed to have trouble with typing: he and his 
husband noticed that after writing an email or text, the 
subsequent message didn’t seem to make sense, and he would 
sometimes think to press a particular letter but not actually 
press the key with his finger. A few days prior to this 
admission, he was noted to have trouble drinking from a cup, 
placing the cup to the side of his mouth.

Just prior to this time, he had an upper respiratory infection 
with cough, sinus congestion, sore throat and low grade 
temperatures which gradually resolved. As these aforementioned 
symptoms developed, he sought medical care at ___ 
___ in ___ for his headache and dizziness. He did have 
a reportedly normal neurologic examination and head imaging that 
day except for findings of sinusitis for which he was prescribed 
Azithromycin, ondansetron, and meclizine. He subsequently 
followed up with his primary care physician the next day with no 
further change to this syndrome or its management. On the day of 
admission, he called his PCP noting that he felt worse and was 
sent to our facility for further evaluation.

In the ED, he had a brief episode where he was noted to have 
slurring of his speech. His husband who was at the bedside 
described that his tongue seemed uncoordinated and his face was 
not moving as well on the left side. This lasted for about 5 
minutes after which he was speaking clearly and coherently, 
although he did seem more lethargic at that time. He was 
oriented and remembered the entire episode but did not think 
anything was wrong.
 
Past Medical History:
[] Psychiatric - Depression, Anxiety, Attention Deficit Disorder
 
Social History:
___
Family History:
Significant for psychiatric disease, depression and bipolar. 
Mother has thyroid disease.
 
Physical Exam:
ADMISSION EXAM:
Physical Exam:
Vitals: T: 98.2 P: 107 R: 16  BP:138/91   SaO2: 100/RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx, no thrush
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses
bilaterally.
Skin: no rashes or lesions noted.

Neurologic:
-Mental Status: Alert, oriented x 3.  Able to relate history
without difficulty.  Attentive, able to name ___ backward and do
serial 7's without difficulty.  Language is fluent with intact
repetition and comprehension.  Normal prosody.  There were no
paraphasic errors. Pt. was able to name both high and low
frequency objects.  Able to read without difficulty.  Speech was
not dysarthric. Able to follow both midline and appendicular
commands. Pt. was able to register 3 objects and recall ___ at 5
minutes.  The pt. had good knowledge of current events.  There
was no evidence of apraxia or neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 1 mm and brisk.  VFF to confrontation with red
pin. Funduscopic exam revealed no papilledema, exudates, or
hemorrhages.
III, IV, VI: EOMI without nystagmus.  Normal saccades.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing decreased to finger-rub bilaterally. Normal Rhine
test (air>bone conduction), Weber lateralized more to R. 
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick, cold sensation.
There was decreased vibratory sense (<5 seconds at great toes)
and very decreased proprioception throughout (even at ankles and
wrists). No extinction to DSS. Normal graphesthesia and
stereognosis. 

-DTRs:
  Bi Tri ___ Pat Ach
L  3  2    3    3   2
R  3  2    3    3   2
Plantar response was flexor on R and equicoval on L. ___ beats
clonus at bilateral ankles. 

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem. Romberg absent. Normal stress
gait without posturing. 
-----------
DISCHARGE EXAM:

+Graphesthesia in the left hand, no stereognosis. No apraxia. 
Can copy complex figures and draw a clock appropriately.

Left hand fingers curl slightly, mild pronation.

Extinguishes to double simultaneous tactile stimulation on the 
left.
Decreased joint position sense at the PIPs in the hands 
bilaterally.
 
Pertinent Results:
Toxicology positive for amphetamines only
Normal CBC and electrolytes
HIV negative
TSH 1.7
UA negative
CXR unremarkable
CSF with WBC 2 (1 poly), RBC 9, Glucose 59, Protein 78, Gram 
Stain negative, Culture negative, Fungal Culture negative, 
Cryptococcal negative
HgbA1c 5.8
Total Cholesterol 208, Trig 154, HDL 42, LDL 135

___ MRI Brain c/s contrast
IMPRESSION: Multiple infarcts in the distribution of right 
middle and 
posterior cerebral arteries. Subtle enhancement is seen in some 
of the areas with infarction, but no evidence of enhancement to 
suggest underlying mass. Occlusion or slow flow in the right 
internal carotid artery. 

___ CTA Head/Neck
1. Head CT shows infarct seen on the previous MRI examination. 
No hemorrhage. 
2. CT angiography of the neck demonstrates occlusion of the 
right internal 
carotid artery beyond the carotid bulb with surrounding soft 
tissue prominence indicating hematoma and suggesting dissection 
as the cause of occlusion. Left internal carotid and both 
vertebral arteries are patent.  
3. Intracranial CTA shows diminished flow within the right 
middle cerebral 
branches with some irregularity of both divisions of the right 
middle cerebral artery which could be due to intrinsic filling 
defects from clots. No other abnormalities are seen. 

___ TTE
The left atrium and right atrium are normal in cavity size. No 
atrial septal defect or patent foramen ovale is seen by 2D, 
color Doppler or saline contrast with maneuvers. Left 
ventricular wall thickness, cavity size and regional/global 
systolic function are normal (LVEF >55%). Right ventricular 
chamber size and free wall motion are normal. The aortic root is 
mildly dilated at the sinus level. The ascending aorta is mildly 
dilated. The aortic arch is mildly dilated. The aortic valve 
leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis or aortic regurgitation. The 
mitral valve appears structurally normal with trivial mitral 
regurgitation. There is no mitral valve prolapse. The estimated 
pulmonary artery systolic pressure is normal. There is no 
pericardial effusion. IMPRESSION: Normal study. No definite 
structural cardiac source of embolism identified.

___ EEG - slow background activity, no epileptiform 
activity
 
Brief Hospital Course:
___ p/w headache, inattention, lightheadedness, and 
clumsiness s/p multiple R MCA embolic ischemic strokes s/p R ICA 
extracranial/intracranial occlusion, likely dissection.

[] Acute Ischemic Stroke - The patient's multiple neurologic 
symptoms and signs did not have a clear etiology at first, so 
the investigation for his confusional state included head 
imaging, an LP, and an EEG. The LP was unremarkable and did not 
reveal signs of infection (e.g. meningitis, encephalitis). His 
MRI c/s contrast returned during the first night showing an 
appearance consistent with multiple embolic infarctions in the R 
MCA and PCA. A CTA Head/Neck revealed a R ICA tapering to 
occlusion suggesting dissection, so he was briefly started on a 
heparin infusion overnight. However, the dissection did extend 
into the intracranial ICA which could predispose to 
pseudoaneurysm formation, so he was switched to aspirin 325 mg 
daily. There was also concern that given his multiple small 
right hemispheric strokes that full anticoagulation could 
increase the risk of hemorrhagic transformation. His clinical 
status did not change significantly during the course of the 
hospitalization with only subtle neurologic deficits.  A TTE was 
performed and showed a normal ejection fraction, no intracardiac 
shunt or thrombus, and mild hypertensive changes. An EEG was 
performed and was preliminarily read as negative for seizure. 
His strokes were thought to be embolic from his carotid 
dissection; the dissection is not fully explained but may be 
associated with his antecedent upper respiratory infection or 
traction injury from carrying heavy objects (his cello, bags) on 
his right shoulder/neck. He was discharged home with the 
addition of ASA 325 to his medication regimen.

PENDING STUDIES:
[ ] EEG Final Report
[ ] CSF Herpes PCR

TRANSITIONAL CARE ISSUES:
[ ] Followup EEG.
[ ] Determine course for Aspirin at followup appointment.
 
Medications on Admission:
1. fluoxetine 20 mg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
2. alprazolam 0.25 mg Tablet Sig: One (1) Tablet PO QHS (once a 
day (at bedtime)) as needed for anxiety.  
3. Amphetamine Salt Combo 20 mg Tablet Sig: One (1) Tablet PO 
twice a day as needed.  

 
Discharge Medications:
1. fluoxetine 20 mg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
2. alprazolam 0.25 mg Tablet Sig: One (1) Tablet PO QHS (once a 
day (at bedtime)) as needed for anxiety.  
3. Amphetamine Salt Combo 20 mg Tablet Sig: One (1) Tablet PO 
twice a day as needed.  
4. aspirin 325 mg Tablet Sig: One (1) Tablet PO once a day: for 
prevention of recurrent stroke.
Disp:*30 Tablet(s)* Refills:*2*
5. Outpatient Physical Therapy
evaluate and treat
6. Outpatient Occupational Therapy
evaluation and treatment, mild left hand weakness
7. atorvastatin 10 mg Tablet Sig: One (1) Tablet PO once a day: 
for control of cholesterol.
Disp:*30 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: Acute Ischemic Stroke
Secondary Diagnosis: Carotid Artery Dissection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

Neurologic: Left hand graphesthesia. Left hand mild pronation. 
Extinction to double simultaneous tactile stimulation on the 
left. Decreased joint position sense in the PIPs bilaterally. 
Otherwise normal.

 
Discharge Instructions:
Dear Mr. ___,

You were hospitalized due to symptoms of behavioral changes, 
inattention, lightheadedness, headache, and clumsiness which we 
believe are related to an ACUTE ISCHEMIC STROKE. This stroke was 
caused by a longitudinal tear of your right carotid artery which 
blocked this blood vessel, formed a clot after the tear, and 
subsequently detached part of the clot upwards into the blood 
vessels of the brain, causing blockages of these smaller blood 
vessels. This type of damage is called a CAROTID ARTERY 
DISSECTION. This process causes headache, and the small strokes 
resulted in some cognitive slowing, very subtle weakness, and 
partial impairment of sensory processing on the left side of 
your body. This dissection may have been related to your recent 
upper respiratory tract infection as described by Dr. ___ 
it may be related to traction/direct injury from weight-bearing 
on the right side near the neck (or perhaps a combination of 
both). The blood vessel will heal with time, but we are starting 
you a full-dose Aspirin to aid this process and reduce the risk 
of further stroke.

You can take your other medications as previously prescribed. We 
are adding:
ASPIRIN 325 MG by mouth ONCE DAILY
ATORVASTATIN 10 MG by mouth ONCE DAILY

If you experience any of the following symptoms listed below, 
please seek medical attention.

We would like you to be seen by Dr. ___ in the ___ Stroke 
Clinic as listed below.

It was a pleasure providing you with medical care during this 
hospitalization.
 
Followup Instructions:
___